US04337256
1-(4-Fluorophenyl)-5-methylisoquinoline was reacted with N-chlorosuccinimide in the same way as in step (a) of Example 2 to afford 1-(4-flurophenyl)-5-chloromethylisoquinoline as colorless needles having a melting point of 109.5° to 111.5° C.

reactant | 1-(4-Fluorophenyl)-5-methylisoquinoline | FC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)C | C16H12FN
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 1-(4-flurophenyl)-5-chloromethylisoquinoline | FC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)CCl | C16H11ClFN
